US04684639
(b) N-Benzyloxycarbonyl 2-chloro-4,5-dihydroxyphenylglycine
N-Benzyloxycarbonyl 3,4-dihydroxyphenylglycine (0.79 g, 2.5 mmole) in acetic acid (10 ml) was treated with sulphuryl chloride (0.2 ml), stirred at room temperature for two hours then diluted with ethyl acetate (50 ml), washed with water (2×3 ml) and brine (20 ml), dried and evaporated to a gum which was crystallized from chloroform, 0.36 g, 41%, mp 141°-143°.

reactant | N-Benzyloxycarbonyl 3,4-dihydroxyphenylglycine | 2.5 mmole, 0.79 g | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)C1=CC(=C(C=C1)O)O | C16H15NO6
reactant | sulphuryl chloride | 0.2 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-Benzyloxycarbonyl 2-chloro-4,5-dihydroxyphenylglycine | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)C1=C(C=C(C(=C1)O)O)Cl | C16H14ClNO6
